US04716159
Acetic acid anhydride (100 ml), 2-[4-hydroxy-6-(4-methoxyphenyl)-3-pyridaziny]benzoic acid (11 g, 0.0342 mol) and toluene (100 ml) are reacted in a 250 ml flask; oil bath about 130° C. When the reaction is completed, the mixture toluene/acetic acid is distilled off at 96-108° C. (about 100 ml/1.5 hours). The acetic acid anhydride is eliminated under vacuum, the residue is taken up with methylene chloride (250 ml), washed with 5% aqueous sodium bicarbonate and then with water up to neutrality. THe organic layer is oven dried, and concentrated to dryness to give 3-(4-methoxyphenyl)-6H-[2]-benzopyrano[4,3-c]pyridazin-6-one 230°-231° C. (9,8 g; Yield 92%).

reactant | Acetic acid anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-hydroxy-6-(4-methoxyphenyl)-3-pyridaziny]benzoic acid | 0.0342 mol, 11 g | OC1=C(N=NC(=C1)C1=CC=C(C=C1)OC)C1=C(C(=O)O)C=CC=C1 | C18H14N2O4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-methoxyphenyl)-6H-[2]-benzopyrano[4,3-c]pyridazin-6-one | Yield 92% | COC1=CC=C(C=C1)C1=CC2=C(N=N1)C1=C(C(O2)=O)C=CC=C1 | C18H12N2O3
